US07253192B2
D] 1-(2-Fluoro-4-methoxy-3-methyl-phenyl)-ethanone
17.69 ml (1.6 M in n-hexane, 28.30 mmol) n-BuLi were added slowly to a cooled solution (−78° C.) of the above prepared 4.29 g (20.21 mmol) 2-(2-fluoro-4-methoxy-phenyl)-2-methyl-[1,3]-dioxolane in 100 ml THF. The reaction was stirred for 30 min at this temperature. 5.03 ml (80.86 mmol) of iodomethane were then added over 20 min and after 6 h at −78° C. the reaction was stopped with 3.24 ml (56.60 mmol) of acetic acid in 5 ml ether. The reaction mixture was taken up in ether and washed with aqueous 10% KHSO4 solution and aqueous 10% NaCl solution. The water phases were extracted with ether (two times). The organic phase was dried (Na2SO4) and evaporated. The crude product was dissolved in 30 ml dioxane and treated slowly with 6.74 ml of aqueous 6M HCl. After 2 h, the reaction was taken up in ether and washed with aqueous 10% NaCl solution (two times). The water phases were extracted with ether (two times). The organic phase was dried (Na2SO4), evaporated and purified by flash chromatography (SiO2; n-heptane/CH2Cl2=4:1) to give 1.60 g of the title compound.

reactant | n-BuLi | 28.30 mmol, 1.6 M, 17.69 ml | [Li]CCCC
reactant | 2-(2-fluoro-4-methoxy-phenyl)-2-methyl-[1,3]-dioxolane | 20.21 mmol, 4.29 g | FC1=C(C=CC(=C1)OC)C1(OCCO1)C | C11H13FO3
reactant | iodomethane | 80.86 mmol, 5.03 ml | IC | CH3I
reactant | acetic acid | 56.60 mmol, 3.24 ml | C(C)(=O)O | C2H4O2
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | ether | 5 ml | CCOCC | C4H10O
product | 1-(2-Fluoro-4-methoxy-3-methyl-phenyl)-ethanone | 1.60 g | FC1=C(C=CC(=C1C)OC)C(C)=O | C10H11FO2
